US04863948
(A) 2-(4-Methyl-2H-phthalazin-1-on-2-yl)ethyl bromide
4-Methyl-(2H)-phthalazin-1-one (6 g) and sodium hydride (1.5 g, 60% in oil) in dimethylformamide (DMF) were stirred at room temperature until hydrogen evolution ceased. To this suspension was added a five fold excess of 1,2-dibromoethane (25 ml) and stirring was continued for a further 2 hours. The solvent was removed and the residue taken up in ethyl acetate, washed twice with brine, dried (MgSO4) and evaporated. Chromatography on silica [Merck `Kieselgel 60` (Trade Mark)] eluting with methylene chloride containing methanol (0% up to 5%) gave, after collection and evaporation of appropriate fractions, a solid which was recrystallised from ethanol to give the title compound, yield 6.25 g, m.p. 102°-103°, used in the next stage.

reactant | 4-Methyl-(2H)-phthalazin-1-one | 6 g | CC1=NNC(C2=CC=CC=C12)=O | C9H8N2O
reactant | sodium hydride | 1.5 g | [H-].[Na+]
reactant | hydrogen | [H][H] | H2
reactant | 1,2-dibromoethane | 25 ml | BrCCBr | C2H4Br2
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 2-(4-Methyl-2H-phthalazin-1-on-2-yl)ethyl bromide | CC1=NN(C(C2=CC=CC=C12)=O)CCBr | C11H11BrN2O
